US05273972
C. 4-Amino-5-chloro-N-[2-[(dimethylamino)methyl]-1-azabicyclo[2.2.2]oct-3-yl)-2-methoxybenzamide
A solution of 4-amino-5-chloro-2-methoxybenzoic acid (2.22 g, 11 mmoles) and triethylamine (1.12 g, 11 mmoles) in anhydrous methylene chloride (35 ml) under nitrogen was cooled (0° C.) and treated dropwise with ethyl chloroformate (1.2 g, 11 mmoles). After 45 minutes at 0° C., the solution was cooled (-55° C.) and treated dropwise with 2-(dimethylaminomethyl)-1-azabicyclo[2.2.2]octan-3-amine (2.11 g, 11.5 mmoles) in 7 ml of methylene chloride. The solution was warmed to 25° C. over one hour, stirred for one hour, and diluted with methylene chloride to a total volume of 100 ml. The organic solution was washed with 1.0N sodium hydroxide (2×35 ml), saturated aqueous sodium bicarbonate (35 ml), and brine (35 ml), dried (Na2SO4), and concentrated in vacuo to provide 2.94 g (73%) of an oil.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 11 mmoles, 2.22 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | triethylamine | 11 mmoles, 1.12 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 11 mmoles, 1.2 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-(dimethylaminomethyl)-1-azabicyclo[2.2.2]octan-3-amine | 11.5 mmoles, 2.11 g | CN(C)CC1N2CCC(C1N)CC2 | C10H21N3
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 4-Amino-5-chloro-N-[2-[(dimethylamino)methyl]-1-azabicyclo[2.2.2]oct-3-yl)-2-methoxybenzamide | 2.94 g, 73% | NC1=CC(=C(C(=O)NC2C(N3CCC2CC3)CN(C)C)C=C1Cl)OC | C18H27ClN4O2
